US07148226B2
6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-3-diazo-dihydro-pyran-2,4-dione
To a solution of 6-[2-(3-chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione (0.500 g, 1.44 mmol) from Example B(87), and sodium dihydrogen phosphate (0.26 g, 2.16 mmol) in DMF (6 mL) was added 4-acetamidobenzenesulfonyl azide (0.52 g, 2.16 mmol). The reaction was stirred for 4 hours, and then concentrated by rotary evaporation. The crude material was purified by flash chromatography to yield the desired compound (0.537 g, 100% yield).

reactant | 6-[2-(3-chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | 1.44 mmol, 0.500 g | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | sodium dihydrogen phosphate | 2.16 mmol, 0.26 g | P(=O)(O)(O)[O-].[Na+]
reactant | 4-acetamidobenzenesulfonyl azide | 2.16 mmol, 0.52 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-3-diazo-dihydro-pyran-2,4-dione | 0.537 g, 100% yield | ClC=1C=C(C=CC1OC)CCC1(CC(C(C(O1)=O)=[N+]=[N-])=O)C1CCCC1 | C19H21ClN2O4
